US06476053B1
3-Methyl-1-octylpyrrolidine-2,5-dione
10% Palladium on carbon catalyst (5 wt %) was added to a stirred solution of N-nonyl citraconimide (0.02 M) prepared as described in Example 5 above in methanol (100 ml). Hydrogen gas was bubbled through this solution for three hours. The solution was then filtered over celite and concentrated in vacuo. Chromatography over silica gel gave the desired product.

reactant | N-nonyl citraconimide | 0.02 M | C(CCCCCCCC)N1C(C(C)=CC1=O)=O | C14H23NO2
catalyst | Palladium on carbon | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 3-Methyl-1-octylpyrrolidine-2,5-dione | CC1C(N(C(C1)=O)CCCCCCCC)=O | C13H23NO2
